US03959322
Dissolve 2-ethyl-2-(6-m-methoxyphenyl-6-methyl-3-oxohexyl)-1,3-cyclopentanedione (39.7 g) in benzene (500 ml) and reflux with p-toluenesulfonic acid in water (11.0 g). Remove 2 moles of water, add ethyleneglycol (50 ml) and reflux the solution overnight (16 hours). After working up by the usual procedure, filter repeatedly through Florex in hexane. Recrystallize from ethanol to obtain dl-13β-ethyl-3-methoxy-6-methyl-17,17-ethylenedioxygona-1,3,5(10),8,14-pentaene (16.8 g), m.p. 120°-122°; ultraviolet absorption peak at 312 mμ, no infrared absorption in the ketone region.

reactant | 2-ethyl-2-(6-m-methoxyphenyl-6-methyl-3-oxohexyl)-1,3-cyclopentanedione | 39.7 g | C(C)C1(C(CCC1=O)=O)CCC(CCC(C)C1=CC(=CC=C1)OC)=O | C21H28O4
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | ethyleneglycol | 50 ml | C(CO)O | C2H6O2
reactant | water | 11.0 g | O | H2O
reactant | water | 2 moles | O | H2O
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 13β-ethyl-3-methoxy-6-methyl-17,17-ethylenedioxygona-1,3,5(10),8,14-pentaene | 16.8 g | C(C)[C@]12C3(CC=C2C2=C(CC1)C=1C=CC(=CC1C(C2)C)OC)OCCO3 | C23H28O3
